US07538127B2
iii) {5-{(1R)-2-[Bis(phenylmethyl)amino]-1-hydroxyethyl}-2-[({[2-(trimethylsilyl)ethyl]oxy}methyl)oxy]phenyl}formamide
A solution of (5-{(1R)2-[bis(phenylmethyl)amino]-1-hydroxyethyl}-2-hydroxyphenyl)formamide (354 mg) in DMF (10 ml) under nitrogen was treated with sodium hydride (60% dispersion in mineral oil, 38 mg) and the mixture stirred at 20° for 10 min. 2-(Trimethylsilyl)ethoxymethyl chloride (0.17 ml) was added and the mixture was stirred at 20° for 3 h. Phosphate buffer solution (pH 6.5) and water were added and the mixture was extracted with EtOAc. The extract was washed with water and dried (Na2SO4). Solvent evaporation in vacuo gave a residue which was purified on a silica SPE bond elut cartridge (20 g) using a gradient of 0% to 2% MeOH in DCM (Gradmaster™). The appropriate fractions were evaporated in vacuo to give the title compound (286 mg). LCMS RT=3.08 min.

reactant | (5-{(1R)2-[bis(phenylmethyl)amino]-1-hydroxyethyl}-2-hydroxyphenyl)formamide | 354 mg | C1(=CC=CC=C1)CN(C[C@H](O)C=1C=CC(=C(C1)NC=O)O)CC1=CC=CC=C1 | C23H24N2O3
reactant | sodium hydride | 38 mg | [H-].[Na+]
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 0.17 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | Phosphate | pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {5-{(1R)-2-[Bis(phenylmethyl)amino]-1-hydroxyethyl}-2-[({[2-(trimethylsilyl)ethyl]oxy}methyl)oxy]phenyl}formamide | 286 mg | C1(=CC=CC=C1)CN(C[C@H](O)C=1C=CC(=C(C1)NC=O)OCOCC[Si](C)(C)C)CC1=CC=CC=C1 | C29H38N2O4Si
